US05306728
Production of (E,E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-2-[3-[3-(3-thienyl)phenyl]-2-propenyloxy]ethylamine hydrochloride
Compounds of Examples 26 to 29 were obtained by performing the same reaction as in Example 25 except that the corresponding alcohol derivatives and/or 2-hepten-4-ynylamine derivatives were used instead of the starting compounds, (E)-2-[3-[3-(3-thienyl)phenyl]-2propenyloxy]ethanol and/or (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride, which were used in the above-mentioned reaction.

reactant | 2-hepten-4-ynylamine | C(C=CC#CCC)N | C7H11N
reactant | (E)-2-[3-[3-(3-thienyl)phenyl]-2propenyloxy]ethanol | S1C=C(C=C1)C=1C=C(C=CC1)/C=C/COCCO | C15H16O2S
reactant | (E)-N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride | Cl.C(C)NC\C=C\C#CC(C)(C)C
product | (E,E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-2-[3-[3-(3-thienyl)phenyl]-2-propenyloxy]ethylamine hydrochloride | Cl.C(C)N(C\C=C\C#CC(C)(C)C)CCOC\C=C\C1=CC(=CC=C1)C1=CSC=C1 | InChI=1S/C26H33NOS.ClH/c1-5-27(16-8-6-7-15-26(2,3)4)17-19-28-18-10-12-23-11-9-13-24(21-23)25-14-20-29-22-25;/h6,8-14,20-22H,5,16-19H2,1-4H3;1H/b8-6+,12-10+;
